US04939137
Methyl 4-aminothiophene-3-carboxylate was reacted with one equivalent of 4-bromobutylisocyanate in toluene at room temperature for 12 hours to produce N-(4-bromobutyl)-N'-(4-carbomethoxythien-3-yl] urea as a tan solid, mp 85°-86° C.

reactant | Methyl 4-aminothiophene-3-carboxylate | NC=1C(=CSC1)C(=O)OC | C6H7NO2S
reactant | 4-bromobutylisocyanate | one equivalent | BrCCCCN=C=O | C5H8BrNO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(4-bromobutyl)-N'-(4-carbomethoxythien-3-yl] urea | BrCCCCNC(=O)NC1=CSC=C1C(=O)OC | C11H15BrN2O3S
